US05998433
e) Synthesis of N,N-dimethyl-[5-(6-phenylhexyl)-4,5,6,7-tetrahydrofuro[3,2-c]pyridin-2-ylmethyl]amine
To a solution of 0.288 g (1.016 mmol) of 5-(6-phenylhexyl)-4,5,6,7-tetrahydrofuro[3,2-c]pyridine in 20 ml of acetic acid, 0.11 g (1.2 mmol) of 50% aqueous dimethylamine and 0.10 g (1.2 mmol) of 37% aqueous formaldehyde were added, followed by stirring at 100° C. for 30 minutes. After the solvent was distilled off under reduced pressure, the residual solution was alkalified with aqueous sodium hydroxide and extracted with dichloromethane 3 times. The combined organic layer was dried over anhydrous magnesium sulfate; the solvent was distilled off under reduced pressure. The resulting crude product was purified by silica gel column chromatography (ethyl acetate to ethyl acetate/methanol=2/1) to yield the desired product.

reactant | 5-(6-phenylhexyl)-4,5,6,7-tetrahydrofuro[3,2-c]pyridine | 1.016 mmol, 0.288 g | C1(=CC=CC=C1)CCCCCCN1CC2=C(CC1)OC=C2 | C19H25NO
reactant | dimethylamine | 1.2 mmol, 0.11 g | CNC | C2H7N
reactant | formaldehyde | 1.2 mmol, 0.10 g | C=O | CH2O
solvent | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
product | N,N-dimethyl-[5-(6-phenylhexyl)-4,5,6,7-tetrahydrofuro[3,2-c]pyridin-2-ylmethyl]amine | CN(C)CC1=CC=2CN(CCC2O1)CCCCCCC1=CC=CC=C1 | C22H32N2O
